US09255056B2
In a reactor equipped with a stirrer, a cooling condenser, a dropping funnel and a thermometer were placed 13-chloro-1,1-diethoxy-2-tridecyne (302.9 g:1.0 mol), para-toluenesulfonic acid (8.0 g:0.05 mol), water (170.0 g) and tetrahydrofuran (42.0 g), and then stirred at a reaction mixture temperature of from 60 to 65° C. During stirring, the pressure in the reactor was reduced gradually to 26.7 KPa to distill off refluxing ethanol. After stirring for 5 hours, completion of the reaction was confirmed by gas chromatography. The organic phase separated from the aqueous phase of the reaction mixture was washed with a solution of sodium chloride (5.0 g) in water (150.0 g). The organic phase was subjected to removal of the solvent under reduced pressure, and then the residue was distilled under reduced pressure to obtain 13-chloro-2-tridecynal [bp: 116-122° C./0.13 KPa, 198.6 g, 0.87 mol]. [Yield: 86.8%]

reactant | 13-chloro-1,1-diethoxy-2-tridecyne | 1.0 mol, 302.9 g | ClCCCCCCCCCCC#CC(OCC)OCC | C17H31ClO2
reactant | water | 170.0 g | O | H2O
catalyst | para-toluenesulfonic acid | 0.05 mol, 8.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | tetrahydrofuran | 42.0 g | O1CCCC1 | C4H8O
product | 13-chloro-2-tridecynal | 0.87 mol, 198.6 g, Yield: 86.8% | ClCCCCCCCCCCC#CC=O | C13H21ClO
